US08048877B2
1,3-Bis-(3,4-difluorobenzyl)-[1,3]diazepan-2-ylideneamine (Compound 13)
The title compound was prepared from 1,4-diaminobutane in four steps by Procedure A, using 3,4-difluorobenzyl bromide as benzylating reagent. After reacting with cyanogen bromide (this step performed at 200° C. for 60 min using MW heating), the crude product was isolated upon aqueous work-up and purified by preparative LCMS to give the title compound as the free base. MS (ES+) m/z 366 ([M+1]+, 100); HR-MS: 366.1599 ([M+1]+, C19H20F4N3; calc. 366.159334).

reactant | 1,4-diaminobutane | NCCCCN | C4H12N2
reactant | 3,4-difluorobenzyl bromide | FC=1C=C(CBr)C=CC1F | C7H5BrF2
reactant | cyanogen bromide | N#CBr | CBrN
product | 1,3-Bis-(3,4-difluorobenzyl)-[1,3]diazepan-2-ylideneamine | FC=1C=C(CN2C(N(CCCC2)CC2=CC(=C(C=C2)F)F)=N)C=CC1F | C19H19F4N3
